US07153848B2
(±)-13-Cyclohexyl-N-[(dimethylamino)sulfonyl]-6,7-dihydro-6-hydroxy-5H-indolo[2,1-a][2]benzazepine-10-carboxamide
1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (11.5 mg, 0.06 mmol) was added to a solution of (±)13-cyclohexyl-6,7-dihydro-6-hydroxy-5H-indolo[2,1-a][2]benzazepine-10-carboxylic acid (7.5 mg, 0.02 mmol) and DMAP(7.4 mg, 0.06 mmol) in DMF (0.5 mL) and CH2Cl2 (0.5 mL) at 22° C. The vial was shaken for a minute at 22° C. N,N-Dimethylsulfamide (4.9 mg, 0.04 mmol) was then added. Stirring was continued for 18 hr. The solution was filtered and purified on the Shimadzu preparative liquid chromatograph. The product containing fraction was concentrated on a Speed Vac® to leave the titled compound as a white film (3.0 mg, 30%). ESI-MS m/z 482 (MH+); 1H NMR (500 MHz, MeOD) δ 1.26–1.34 (m, 1 H) 1.40–1.55 (m, 2 H) 1.63 (m, 1 H) 1.82 (m, 2 H) 1.96 (m, 1 H) 2.01–2.19 (m, 3 H) 2.36 (m, 1 H) 2.95–3.08 (m, 2 H) 3.03 (s, 6 H) 3.76 (dd, J=15.26, 3.36 Hz, 1 H) 4.41–4.69 (m, 2 H) 7.40–7.50 (m, 4 H) 7.60 (m, 1 H) 7.93 (m, 1 H) 8.11 (m, 1 H).

reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.06 mmol, 11.5 mg | Cl.CN(CCCN=C=NCC)C
reactant | (±)13-cyclohexyl-6,7-dihydro-6-hydroxy-5H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 0.02 mmol, 7.5 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CC(C2)O)C=CC=C1)C(=O)O | C24H25NO3
reactant | N,N-Dimethylsulfamide | 0.04 mmol, 4.9 mg | CN(S(=O)(=O)N)C | C2H8N2O2S
catalyst | DMAP | 0.06 mmol, 7.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (±)-13-Cyclohexyl-N-[(dimethylamino)sulfonyl]-6,7-dihydro-6-hydroxy-5H-indolo[2,1-a][2]benzazepine-10-carboxamide | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CC(C2)O)C=CC=C1)C(=O)NS(=O)(=O)N(C)C | C26H31N3O4S
